US06734200B1
3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one
3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one (2.19 g, 5 mM) was dissolved in dry dichloromethane (40 ml) under nitrogen at 0°, and treated with triethylamine (0.81 g, 8 mM). Methanesulfonyl chloride (0.687 g, 6 mM) was added, and stirring continued for 2 hours, allowing the temperature to rise to ambient. Aqueous sodium bicarbonate (5%, 20 ml) was added, and stirring continued for 10 minutes. The organic phase was separated, dried (magnesium sulfate), filtered, and evaporated to dryness. The resulting gum was triturated with diethyl ether (50 ml) and solid filtered to give the title compound (2.4 g). NMR (DMSO-d6) δ: 1.30 (s, 3H); 1.33 (s, 3H); 2.30 (br, 1H); 2.39 (br, 1H); 3.26 (s, 3H); 3.67 (t overlapping m, 2H); 3.82 (dd, 1H); 4.01-4.31 (complex overlapping m, 5H); 4.45 (dd, 1H); 4.51 (dd, 1H); 4.90 (dd, 1H); 5.03 (m, 1H); 5.87 (s, 1H); 7.35 (d, 2H). MS (ESP): 517 (MH+) for C22H26F2N2O8S

reactant | 3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one | 5 mM, 2.19 g | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CO)=O)F)C | C21H24F2N2O6
reactant | triethylamine | 8 mM, 0.81 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 6 mM, 0.687 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one | 2.4 g | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F)C | C22H26F2N2O8S
